US05777087
p-(3-phenylpropyl)phenyllithium (8.1 g, 40 mmol) in 150 ml solvent (Et2O/THF 1/1) was added dropwise to CH3OPCl2 (2.66 g, 20 mmol) in 70 ml solvent (Et2O/THF 1/1) at -70° C. The addition was completed in 2 h. The reaction mixture was stirred overnight at room temperature and then brought to reflux for 2 h. The precipitate was filtered and the solvent of the solution was removed by applying vacuum. PCl3 (15 ml) was added to the resulting viscous oil and stirred for 24 h. Then the mixture was kept at 70° C. and 1 mm Hg for 2 h to remove excess PCl3 and byproduct. The product, di[p-(3-phenylpropyl)phenyl]chlorophosphine, was obtained as a pale yellow viscous oil with 90% yield. The product was characterized by 31P NMR. 83.6.

reactant | p-(3-phenylpropyl)phenyllithium | 40 mmol, 8.1 g | C1(=CC=CC=C1)CCCC1=CC=C(C=C1)[Li]
reactant | CH3OPCl2 | 20 mmol, 2.66 g | COP(Cl)Cl | CH3Cl2OP
product | di[p-(3-phenylpropyl)phenyl]chlorophosphine | 90% yield | C1(=CC=CC=C1)CCCC1=CC=C(C=C1)P(Cl)C1=CC=C(C=C1)CCCC1=CC=CC=C1 | C30H30ClP
